US07211572B2
Methanol (6 ml) and 1N aqueous sodium hydroxide solution (2.5 ml) were added to methyl 5-benzyloxy-6-hydroxypyrimidine-4-carboxylate (530 mg) obtained in the previous step, and the mixture was stirred at room temperature for 1 hr. 2N Hydrochloric acid (2.5 ml) was added to the reaction mixture, and methanol was evaporated under reduced pressure. The precipitate was collected by filtration, washed with water and dried to give 5-benzyloxy-6-hydroxypyrimidine-4-carboxylic acid (253 mg).

reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | methyl 5-benzyloxy-6-hydroxypyrimidine-4-carboxylate | 530 mg | C(C1=CC=CC=C1)OC=1C(=NC=NC1O)C(=O)OC | C13H12N2O4
reactant | Hydrochloric acid | 2N, 2.5 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | Methanol | 6 ml | CO | CH4O
product | 5-benzyloxy-6-hydroxypyrimidine-4-carboxylic acid | 253 mg | C(C1=CC=CC=C1)OC=1C(=NC=NC1O)C(=O)O | C12H10N2O4
